US08487108B2
(3R)-tert-butyl 3-((3-chlorophenyl)(3-ethoxy-3-oxopropoxy)methyl)piperidine-1-carboxylate (2.0 g, 4.71 mmol) was dissolved in a solution CH3NH2 in CH3OH ((180 mL) and stirred overnight at rt. After the reaction was complete by HPLC analysis, the solvent was removed in vacuo. The residue was purified by preparative HPLC and afforded the desired isomerically pure product (R)-tert-butyl 3-((R)-(3-chlorophenyl)(3-(methylamino)-3-oxopropoxy)methyl)piperidine-1-carboxylate (0.80 g, 1.95 mmol, 41% yield). MS (E/Z): 411 (M+H+).

reactant | (3R)-tert-butyl 3-((3-chlorophenyl)(3-ethoxy-3-oxopropoxy)methyl)piperidine-1-carboxylate | 4.71 mmol, 2.0 g | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCC(=O)OCC | C22H32ClNO5
reactant | CH3NH2 | CN | CH5N
solvent | CH3OH | CO | CH4O
product | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(3-(methylamino)-3-oxopropoxy)methyl)piperidine-1-carboxylate | 1.95 mmol, 0.80 g, 41% yield | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCC(=O)NC | C21H31ClN2O4
